US08937176B2
7.03.01. 2-(1,4-Bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-1-(4-(4-methoxy-pyridin-2-yl)-piperazin-1-yl)-ethanone
70 mg (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid ethyl ester, 58 mg 1-(4-methoxy-pyridin-2-yl)-piperazine and 0.05 mLN,N-diisopropylethylamine in 2 mL NMP was stirred 50 min. at 180° C. under microwave condition. The reaction was poured into water and extracted with ethyl acetate. The organic layer was dried and evaporated. The residue was purified by HPLC (column: Waters Symmetry 50×140 mm 7 μm, mobile layer: water+0.3% HCOOH/methanol 10% until 90% in 14 min) to give 31 mg desired product.

reactant | (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid ethyl ester | 70 mg | C(C)OC(CC=1N(C=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C19H16F2N2O2
reactant | 1-(4-methoxy-pyridin-2-yl)-piperazine | 58 mg | COC1=CC(=NC=C1)N1CCNCC1 | C10H15N3O
reactant | water | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-(1,4-Bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-1-(4-(4-methoxy-pyridin-2-yl)-piperazin-1-yl)-ethanone | 31 mg | FC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)F)CC(=O)N1CCN(CC1)C1=NC=CC(=C1)OC | C27H25F2N5O2
